US05053504
[1-(4-Methoxyphenyl)-2-[2-nitro-6-(trifluoromethyl)phenyl]ethyl]propanedioic acid, dimethyl ester
To a vigorously stirring mixture of molecular sieves (5.25 g) and tetra-n-butylammonium fluoride (0.882 g) was added dry tetrahydrofuran (10 ml) at 0° C. 2-Methyl-1-nitro-3-(trifluoromethyl)benzene (0.425 ml; 2.8 mmol) was added to the suspension followed by the addition of a solution of 2-[(4-methoxyphenyl)methylene]propanedioic acid, dimethyl ester (0.44 g; 1.75 mmol) in 5 ml of tetrahydrofuran. After 30 minutes of 0° C. the reaction was brought to room temperature and stirred for another 20 minutes. The reaction was quenched with 30% acetic acid until a light yellow color was observed and thereafter was diluted with 45 ml of ethyl ether, filtered and washed twice with 30 ml of ethyl ether. The combined organic solution was washed with sodium hydrogen carbonate and dried over magnesium sulfate. Concentration and chromatography provided 0.72 g of the title compound as a foam.

reactant | tetra-n-butylammonium fluoride | 0.882 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-Methyl-1-nitro-3-(trifluoromethyl)benzene | 2.8 mmol, 0.425 ml | CC1=C(C=CC=C1C(F)(F)F)[N+](=O)[O-] | C8H6F3NO2
reactant | 2-[(4-methoxyphenyl)methylene]propanedioic acid, dimethyl ester | 1.75 mmol, 0.44 g | COC1=CC=C(C=C1)C=C(C(=O)OC)C(=O)OC | C13H14O5
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | [1-(4-Methoxyphenyl)-2-[2-nitro-6-(trifluoromethyl)phenyl]ethyl]propanedioic acid, dimethyl ester | 0.72 g | COC1=CC=C(C=C1)C(CC1=C(C=CC=C1C(F)(F)F)[N+](=O)[O-])C(C(=O)OC)C(=O)OC | C21H20F3NO7
